US09164409B2
Guaiacol (249 grams), glycerine carbonate (254 grams) and potassium carbonate (1 gram) were combined and heated to 185° C. over a 6 hour period to result in a guaiacol mono-glycerate product.

reactant | Guaiacol | 249 grams | C=1(C(O)=CC=CC1)OC | C7H8O2
reactant | glycerine carbonate | 254 grams | C(O)(O)=O.OCC(O)CO
reactant | potassium carbonate | 1 gram | C([O-])([O-])=O.[K+].[K+]
product | guaiacol mono-glycerate | C(C(O)CO)(=O)OC=1C(=CC=CC1)OC | C10H12O5
